US05741926
4-((2-((2-Fluorophenyl)amino)acetyl)amino)-1-butoxybenzene (Compound CN)
A solution of 4-((bromoacetyl)amino)-1-butoxybenzene (1.0 g, 3.5 mmol) and 2-fluoroaniline (1.0 g, 0.87 mL, 8.8 mmol) in anhydrous DMF (30 mL) was heated to 90°-100° C. overnight with stirring under N2. The solution was cooled, poured into 500 mL of ice-water, and then extracted with CH2Cl2 (3×50 mL). The layers were separated and the organic layer was dried (MgSO4), filtered and then concentrated to an oily residue. Purification by chromatography, eluting with hexane-ethyl acetate (2:1), afforded 0.50 g (45%) of the title compound, mp 92°-94° C.: 1H NMR (DMSO-d6) δ9.86 (s, 1H), 7.47 (d, J=8.8, 2H), 7.04 (ddd, J=9.6, J=8.0, J=1.2, 1H), 6.94 (dt, J=8.0, J=0.8, 1H), 6.86 (d, J=9.6, 2H), 6.63-6.58 (m, 2H), 5.73 (bt, J=2.0, 1H), 3.90 (q, J=6.0, 2H), 3.46 (s, 2H), 1.68-1.64 (m, 2H), 1.44-1.40 (m, 2H), 0.91 (t, J=5.6, 3H); 13C NMR (DMSO-d6) δ168.24, 154.69, 150.90 (d, J=236), 136.46, 131.79, 124.73 (d, J=3.5), 120.79, 116.22 (d, J=6.3), 114.48 (d, J=5.6), 114.33 (d, J=126), 112.11 (d, J=3.6), 67.21, 46.57, 30.75, 18.70, 13.66; MS (El, m/z) 316 (M+).

reactant | 4-((bromoacetyl)amino)-1-butoxybenzene | 3.5 mmol, 1.0 g | BrCC(=O)NC1=CC=C(C=C1)OCCCC | C12H16BrNO2
reactant | 2-fluoroaniline | 8.8 mmol, 0.87 mL, 1.0 g | FC1=C(N)C=CC=C1 | C6H6FN
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 4-((2-((2-Fluorophenyl)amino)acetyl)amino)-1-butoxybenzene | 0.50 g, 45% | FC1=C(C=CC=C1)NCC(=O)NC1=CC=C(C=C1)OCCCC | C18H21FN2O2
